US04698352
In 20 ml benzene was dissolved 2.0 g of methyl 5-(cyclohexen-4-yl)-3-oxo-4-pentenoate, and 1.4 g of N,N-dimethylformamidodimethylacetal was added thereto. They were reacted at 70° C. for 1.5 hours. This reaction mixture was cooled to room temperature, and 1.2 g of p-hydroxyaniline was added thereto. They were reacted for 1.5 hours. After completion of the reaction, 50 ml of diisopropyl ether was added to the reaction mixture and the precipitated crystals were collected by filtration and washed with 20 ml of diisopropyl ether to obtain 2.1 g of methyl 5-(cyclohexen-4-yl)-2-(4-hydroxyphenylaminomethylene)-3-oxo-4-pentenoate having a melting point of 151°-153° C.

reactant | methyl 5-(cyclohexen-4-yl)-3-oxo-4-pentenoate | 2.0 g | C1=CCC(CC1)C=CC(CC(=O)OC)=O | C12H16O3
reactant | p-hydroxyaniline | 1.2 g | OC1=CC=C(N)C=C1 | C6H7NO
reactant | diisopropyl ether | 50 ml | C(C)(C)OC(C)C | C6H14O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | methyl 5-(cyclohexen-4-yl)-2-(4-hydroxyphenylaminomethylene)-3-oxo-4-pentenoate | 2.1 g | C1=CCC(CC1)C=CC(C(C(=O)OC)=CNC1=CC=C(C=C1)O)=O | C19H21NO4
